US06833366B1
2-(5-hydroxypentylamino)pyridine N-oxide was prepared dissolving 2-chloropyridine N-oxide.HCl (18.07 mmol), 5-amino-1-pentanol (36.14 mmol), and NaHCO3 (90.36 mmol) in tert-amyl alcohol (20 mL), then refluxing overnight under Ar. After cooling, the reaction was filtered and concentrated to a green oil. Purification by silica gel chromatography (eluent: 94:5:1 CH2Cl2, MeOH, NH4OH) yielded a yellow solid (3.07 g). 1H NMR was consistent with the desired product.

reactant | 2-chloropyridine N-oxide | ClC1=[N+](C=CC=C1)[O-] | C5H4ClNO
reactant | HCl | 18.07 mmol | Cl | ClH
reactant | 5-amino-1-pentanol | 36.14 mmol | NCCCCCO | C5H13NO
reactant | NaHCO3 | 90.36 mmol | C(=O)(O)[O-].[Na+]
solvent | tert-amyl alcohol | 20 mL | C(C)(C)(CC)O | C5H12O
product | 2-(5-hydroxypentylamino)pyridine N-oxide | OCCCCCNC1=[N+](C=CC=C1)[O-] | C10H16N2O2
